** NMOSFET: table generator with BSIM4 2D (Vdrain, Vgate)
*NMOS
*.csparam vdstart=-0.1
*.csparam vdstop=1.8
*.csparam vdstep=0.05
*.csparam vgstart=-0.1
*.csparam vgstop=1.8
*.csparam vgstep=0.05

*PMOS
.csparam vdstart=-1.8
.csparam vdstop=0.1
.csparam vdstep=0.01
.csparam vgstart=-1.8
.csparam vgstop=0.1
.csparam vgstep=0.01

** Circuit Description **
*m1 2 1 3 0 n1 L=0.13u W=10.0u rgeoMod=1
m1 2 1 3 0 p1 L=0.13u W=10.0u rgeoMod=1
vgs 1 0 1.8
vds 2 0 1.8
vss 3 0 0

.control
** output file **
set outfile = "bsim4p-2d-1.table"

*dc vds 0 1.8 0.05 vgs 0 1.8 0.3
save i(vss)
echo *table for nmos bsim 4 > $outfile

let xcount = floor((vdstop-vdstart)/vdstep) + 1
let ycount = floor((vgstop-vgstart)/vgstep) + 1
echo *x >> $outfile
echo $&xcount >> $outfile
echo *y >> $outfile
echo $&ycount >> $outfile
let xvec = vector(xcount)
let yvec = vector(ycount)
let loopx = vdstart
let lcx=0
while lcx < xcount
  let xvec[lcx] = loopx
  let loopx = loopx + vdstep
  let lcx = lcx + 1
end
echo *x row >> $outfile
echo $&xvec >> $outfile
let lcy=0
let loopy = vgstart
while lcy < ycount
  let yvec[lcy] = loopy
  let loopy = loopy + vgstep
  let lcy = lcy + 1
end
echo *y column >> $outfile
echo $&yvec >> $outfile

let lcy=0
let loopy = vgstart
while lcy < ycount
  alter vgs loopy
  dc vds $&vdstart $&vdstop $&vdstep
*  let lcx=0
*  let loopx = vdstart
*  dowhile loopx le vdstop
*    alter vds loopx
*    op
*    let xvec[lcx] = i(vss)
*       destroy i(vss)
*    let loopx = loopx + vdstep
*    let lcx = lcx + 1
*  end
  let xvec = vss#branch ; i(vss)
  echo $&xvec >> $outfile
  destroy dc1
  let loopy = loopy + vgstep
  let lcy = lcy + 1
end
rusage

quit

.endc


.include ./modelcards/modelcard.pmos
.include ./modelcards/modelcard.nmos
.end
